US09315491B2
(2,6-Dihydroxy-5-methylsulfanyl-pyrimidin-4-yl)-acetic acid methyl ester
A mixture of 2-(2,6-dimethoxy-5-methylsulfanyl-pyrimidin-4-yl)-malonic acid dimethyl ester (2.85 g, 9.0 mmol.) was added dropwise to slurry of HCl (37% w/w) (1.0 ml) in MeOH (50 ml). The reaction mixture was stirred at 100° C. for 24 hr and dried, and the solvent was evaporated in vacuo to give a crude as a pale yellow solid of 1.85 g (89.2%). 1H NMR (500 MHz, DMSO-d6): δ11.35 (s, 1H), 11.23 (s, 1H), 3.81 (s, 2H), 3.66 (s, 3H), 2.11 (s, 3H)

reactant | 2-(2,6-dimethoxy-5-methylsulfanyl-pyrimidin-4-yl)-malonic acid dimethyl ester | 9.0 mmol, 2.85 g | COC(C(C(=O)OC)C1=NC(=NC(=C1SC)OC)OC)=O | C12H16N2O6S
reactant | HCl | 1.0 ml | Cl | ClH
solvent | MeOH | 50 ml | CO | CH4O
product | (2,6-Dihydroxy-5-methylsulfanyl-pyrimidin-4-yl)-acetic acid methyl ester | COC(CC1=NC(=NC(=C1SC)O)O)=O | C8H10N2O4S
